US07381823B2
204 ml of a 5.4 M solution of sodium methylate in methanol, 550 ml methanol and 145.5 g of dimethylmalonate are placed in a 2 litre flask equipped with a mechanical stirrer, thermometer and condenser, under nitrogen flow. After 30 minutes, 148 g of cyclohexylidenecyanoacetamide are added over a period of 30 minutes. The mixture is left under agitation for 1.5 hours at 30° C., after which 626 g of 15% NaOH are added, then heated under reflux for 1.5 hours. 400 ml of methanol are distilled and the mixture is acidified with 36% HCl to pH 3 then heated under reflux for 3 hours. By cooling to 25° C. a precipitate is formed which is filtered off, washed with water until the washing waters are neutral and dried under vacuum at 45° C. 69 g of 2,4-dioxo-3-azaspiro[5,5]undecane are obtained.

reactant | sodium methylate | C[O-].[Na+]
reactant | dimethylmalonate | 145.5 g | CC(C(=O)[O-])(C(=O)[O-])C
reactant | cyclohexylidenecyanoacetamide | 148 g | C1(CCCCC1)=C(C(=O)N)C#N | C9H12N2O
reactant | NaOH | 626 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 550 ml | CO | CH4O
product | 2,4-dioxo-3-azaspiro[5,5]undecane | 69 g | O=C1CC2(CC(N1)=O)CCCCC2 | C10H15NO2
